* LVS reference netlist generated from xschem/opamp.spice
.subckt opamp VINP VINN VOUT VDD VSS
XR1 net1 VDD VSS sky130_fd_pr__res_high_po_0p35 L=0.826 mult=1
XM0 net1 net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XM1 net2 VINP net4 VSS sky130_fd_pr__nfet_01v8 L=0.18 W=150 nf=30 ad=21.75 as=23.2 pd=158.7 ps=169.28 nrd=0.00193333333333333 nrs=0.00193333333333333 sa=0 sb=0 sd=0 mult=1
XM2 net3 VINN net4 VSS sky130_fd_pr__nfet_01v8 L=0.18 W=150 nf=30 ad=21.75 as=23.2 pd=158.7 ps=169.28 nrd=0.00193333333333333 nrs=0.00193333333333333 sa=0 sb=0 sd=0 mult=1
XM3 net2 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XM4 net3 net2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XM5 net4 net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XM6 VOUT net3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XM7 VOUT net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.18 W=4 nf=2 ad=0.58 as=1.16 pd=4.58 ps=9.16 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0 mult=1
XC1 net3 VOUT sky130_fd_pr__cap_mim_m3_1 W=2.8 L=2.8 MF=1
.ends opamp
.end
